US04301282
A mixture of 130 g. (1 mole) of ethyl azidoacetate prepared as described in Part A and 96 g. (1.56 mole) of cyanogen chloride was heated at a temperature of 125° C. for 20 hours. After the reaction mixture had cooled, the reaction product mixture was dissolved in ethyl acetate, and the solution was filtered and evaporated in vacuo yielding a yellow crystalline mass of product. The yellow crystals were recrystallized from aqueous ethyl alcohol and gave 149 g. (78% yield) of ethyl 5-chloro-1H-tetrazol-1-ylacetate as pale yellow crystals melting at about 57°-60° C.

reactant | ethyl azidoacetate | 1 mole | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
reactant | cyanogen chloride | 1.56 mole | N#CCl | CClN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 5-chloro-1H-tetrazol-1-ylacetate | 78% yield | ClC1=NN=NN1CC(=O)OCC | C5H7ClN4O2
